US07897607B2
4-Amino-1-mesityl-1,6-dihydro-7H-pyrrolo[2,3-d]pyridazin-7-one
A mixture of ethyl 3-cyano-1-mesityl-1H-pyrrole-2-carboxylate (0.5 g, 1.77 mmol), hydrazine monohydrate (0.86 ml, 17.7 mmol) and ethanol (20 ml) was heated under reflux for 2 days. During the reaction, additional hydrazine monohydrate (0.86 ml×2) was added. The mixture was diluted with water (50 ml) and extracted with ethyl acetate (50 ml×2). The extracts were combined, washed with water, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with dichloromethane/ethyl acetate (3:1-1:1) to give 297 mg (63%) of the title compound as crystals.

reactant | ethyl 3-cyano-1-mesityl-1H-pyrrole-2-carboxylate | 1.77 mmol, 0.5 g | C(#N)C1=C(N(C=C1)C1=C(C=C(C=C1C)C)C)C(=O)OCC | C17H18N2O2
reactant | hydrazine monohydrate | 17.7 mmol, 0.86 ml | O.NN
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | hydrazine monohydrate | 0.86 ml | O.NN
solvent | water | 50 ml | O | H2O
product | 4-Amino-1-mesityl-1,6-dihydro-7H-pyrrolo[2,3-d]pyridazin-7-one | 297 mg, 63% | NC=1C2=C(C(NN1)=O)N(C=C2)C2=C(C=C(C=C2C)C)C | C15H16N4O
